US07244759B2
To a mixture of dimethyl-3-aminophthalic ester (0.75 g, 3.6 mmol), 3-methyl-butyraldehyde (0.36 mL, 4.0 mmol), acetic acid (1.3 mL, 23 mmol) in 1,2-dichloroethane (30 mL), was added sodium triacetoxyborohydride (1.5 g, 7.2 mmol) at room temperature. After 30 minutes, the mixture was extracted with methylene chloride (30 mL) and water (30 mL). The organic layer was washed with sodium hydrogen carbonate (sat. 30 mL). The solvent was removed in vacuo to give a yellow oil. To the oil in methanol (5 mL), was added sodium hydroxide (10 N, 1.5 mL), and kept at room temperature overnight. To the mixture, was added HCl (12 N, 1.3 mL). The solvent was removed in vacuo to give a solid. The solid was dissolved in pyridine (10 mL), and 3-amino-3-(3-ethoxy-4-methoxy-phenyl)-propionitrile (1.0 g, 3.6 mmol) was added to the solution. The solution was heated to reflux for 2 days. The solvent was removed in vacuo to give an oil. The oil was extracted with ethyl acetate (100 mL) and water (100 mL). The organic layer was washed with water (50 mL), HCl (1N, 2×50 μL), water (50 mL), sodium hydrogen carbonate (sat, 2×50 mL), and brine (50 mL), and dried over MgSO4. Filtration and removal of solvent in vacuo gave an oil. The oil was purified by column chromatography (Silca Gel, 1:3 EtOAc:hexanes) to give 3-(3-ethoxy-4-methoxy-phenyl)-3-(4-isobutylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propionitrile as a yellow solid (700 mg, 46% yield): mp, 12-123° C.; 1H NMR (CDCl3) δ 1.01 (d, J=7 Hz, 6H, 2CH3), 1.45 (t, J=7 Hz, 3H, CH3), 1.88-1.99 (m, 1H, CH), 3.07 (t, J=6 Hz, 2H, CH2), 3.27 (dd, J=7, 17 Hz, 1H, CHH), 3.76 (dd, J=10, 17 Hz, 1H, CHH), 3.84 (s, 3H, CH3), 4.09 (q, J=7 Hz, 2H, CH2), 5.55 (dd, J=7, 10 Hz, 1H, NCH), 6.37 (t, J=6 Hz, 1H, Ar), 6.81-6.86 (m, 2H, Ar), 7.01-7.06 (m, 3H, Ar), 7.44 (t, J=8 Hz, 1H, Ar); 13C NMR (CDCl3) δ 14.69, 20.26, 21.29, 28.27, 50.31, 50.63, 55.95, 64.49, 109.63, 111.10, 111.42, 112.22, 116.58, 117.09, 119.96, 129.55, 132.33, 135.93, 147.14, 148.53, 149.66, 168.18. Analy. Calculated for C24H27N3O4: C, 68.39; H, 6.46; N, 9.97. Found: C, 68.32; H, 6.39; N, 9.95.

reactant | 3-methyl-butyraldehyde | 4.0 mmol, 0.36 mL | CC(CC=O)C | C5H10O
reactant | acetic acid | 23 mmol, 1.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 7.2 mmol, 1.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 10 N, 1.5 mL | [OH-].[Na+]
reactant | HCl | 12 N, 1.3 mL | Cl | ClH
reactant | 3-amino-3-(3-ethoxy-4-methoxy-phenyl)-propionitrile | 3.6 mmol, 1.0 g | NC(CC#N)C1=CC(=C(C=C1)OC)OCC | C12H16N2O2
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 3-(3-ethoxy-4-methoxy-phenyl)-3-(4-isobutylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propionitrile | 700 mg, 46% yield | C(C)OC=1C=C(C=CC1OC)C(CC#N)N1C(C2=CC=CC(=C2C1=O)NCC(C)C)=O | C24H27N3O4
